US07256300B2
Synthesis of (R)-2-[2-(5-Fluoro-2-methylphenyl)-2-methylpropyl]-2-trifluoromethyloxirane
To a solution of (S)-1,1,1-trifluoro-4-(5-fluoro-2-methylphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol (1.37 g, 3.41 mmol) in 10 mL of anhydrous dichloromethane was added trimethyloxonium tetrafluoroborate (757 mg, 5.12 mmol). The resulting suspension was stirred at room temperature for 4.5 hours. A solution of potassium carbonate (1.41 g, 10.2 mmol) in 10 mL of water was then added. After 19 hours, the reaction mixture was poured into 40 mL of saturated aqueous sodium bicarbonate solution and extracted with three 50 mL portions of dichloromethane. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by column chromatography with silica gel (eluted with 0%-2% EtOAc-hexanes) afforded the title compound as a clear oil (731 mg, 78%).

reactant | (S)-1,1,1-trifluoro-4-(5-fluoro-2-methylphenyl)-4-methyl-2-p-tolylsulfanylmethylpentan-2-ol | 3.41 mmol, 1.37 g | FC([C@](CC(C)(C)C1=C(C=CC(=C1)F)C)(O)CSC1=CC=C(C=C1)C)(F)F | C21H24F4OS
reactant | trimethyloxonium tetrafluoroborate | 5.12 mmol, 757 mg | F[B-](F)(F)F.C[O+](C)C
reactant | potassium carbonate | 10.2 mmol, 1.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | (R)-2-[2-(5-Fluoro-2-methylphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 731 mg, 78% | FC=1C=CC(=C(C1)C(C[C@]1(OC1)C(F)(F)F)(C)C)C | C14H16F4O
